US08012976B2
A mixture of 9-(3-(diethoxymethyl)phenyl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (90 mg, 0.20 mmol) in 3N hydrochloric acid (12 mL) was stirred at room temperature for 20 hr. Then the mixture was adjusted to pH=8 with potassium carbonate. The resulting suspension was extracted with ethyl acetate to give 3-(3-oxo-8-phenyl-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-9-yl)benzaldehyde (66 mg, yield 88%) as a light yellow solid. LC-MS (ESI) m/z: 368(M+1)+.

reactant | 9-(3-(diethoxymethyl)phenyl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 0.20 mmol, 90 mg | C(C)OC(C=1C=C(C=CC1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=CC=C2)OCC | C27H27N3O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 3N, 12 mL | Cl | ClH
product | 3-(3-oxo-8-phenyl-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-9-yl)benzaldehyde | 66 mg, yield 88% | O=C1NN=C2C=3C(=CC=CC13)NC(C2C=2C=C(C=O)C=CC2)C2=CC=CC=C2 | C23H17N3O2
